US06156700
Preparation of 3-[3-(Chloroacetyl)-1,2-benzisothiazol-5-yl]-1-methyl-6-(trifluoromethyl)-2,4(1H,3H)-pyrimidinedione
To a solution of 3-(3-acetyl-1,2-benzisothiazol-5-yl)-1-methyl-6-(trifluoromethyl)-2,4(1H,3H)-pyrimidinedione (0.570 g, 0.00154 mol) in chloroform is added sulfuryl chloride (0.350 ml, 0.00433 mol). The resultant mixture is stirred one hour at reflux. Concentrated hydrochloric acid (one drop) is added followed by sulfuryl chloride (1.05 ml, 0.0130 mol) and the resultant mixture is stirred three days at reflux. The mixture is cooled to room temperature, diluted with ethyl acetate and ether, washed with saturated sodium bicarbonate and brine, dried over anhydrous magnesium sulfate, and concentrated in vacuo to a solid. The resultant solid is chromatographed on silica gel with hexanes:ethyl acetate to afford a white solid. The solid is chromatographed on silica gel with chloroform to afford a white solid, which is recrystallized from ethyl acetate and hexanes to give the title compound as a white crystalline solid (mp 215-215° C.) which is identified by NMR spectral analysis.

reactant | 3-(3-acetyl-1,2-benzisothiazol-5-yl)-1-methyl-6-(trifluoromethyl)-2,4(1H,3H)-pyrimidinedione | 0.00154 mol, 0.570 g | C(C)(=O)C1=NSC2=C1C=C(C=C2)N2C(N(C(=CC2=O)C(F)(F)F)C)=O | C15H10F3N3O3S
reactant | sulfuryl chloride | 0.00433 mol, 0.350 ml | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | sulfuryl chloride | 0.0130 mol, 1.05 ml | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
catalyst | hydrochloric acid | one drop | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ether | CCOCC | C4H10O
product | 3-[3-(Chloroacetyl)-1,2-benzisothiazol-5-yl]-1-methyl-6-(trifluoromethyl)-2,4(1H,3H)-pyrimidinedione | ClCC(=O)C1=NSC2=C1C=C(C=C2)N2C(N(C(=CC2=O)C(F)(F)F)C)=O | C15H9ClF3N3O3S
